US04232035
2-[[O-[N-Methyl-N-(4-tert.butylphenylthiosulfenyl)carbamoyl]oximino]]-1,4-dithiane was prepared according to the procedure described in Example I, by reacting 1.09 g (0.0073 m) of 2-oximino-1,4-dithiane, 2.0 g (0.0073 m) of N-methyl-N-(4-tert.butylphenylthiosulfenyl)carbamoyl fluoride and 0.736 g (0.0073 m) of triethylamine in 25 ml of dioxane. Weight of the residual oil 1.95 g IR (Neat) 5.75μ (C=O). NMR (CDCl3) 1.28δ(s), 9H, t-butyl; 3.10δ(s), 4H, (CH2), 3.20δ(s), 3H, CH3N; 3.52δ(s) 2H, CH2 ; 7.37δ(d), JAB =8.5 Hz 2H and 7.54δ(d) JBA =85 Hz, 2H. Aromatic.

reactant | 2-oximino-1,4-dithiane | 1.09 g | N(O)=C1SCCSC1 | C4H7NOS2
reactant | N-methyl-N-(4-tert.butylphenylthiosulfenyl)carbamoyl fluoride | 2.0 g | CN(C(=O)F)SSC1=CC=C(C=C1)C(C)(C)C | C12H16FNOS2
reactant | triethylamine | 0.736 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 2-[[O-[N-Methyl-N-(4-tert.butylphenylthiosulfenyl)carbamoyl]oximino]]-1,4-dithiane | CN(C(=O)ON=C1SCCSC1)SSC1=CC=C(C=C1)C(C)(C)C | C16H22N2O2S4
